US08183246B2
(+)-4-{[(2S)-2-{[6-(2-Fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]oxy}propyl]-(methyl)amino}butyric acid
Dissolve 102 mg (93% purity, 0.19 mmol) 4-{[(2S)-2-{[6-(2-fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]oxy}propyl](methyl)amino}butyric acid tert.-butyl ester in 2 ml 4 N hydrogen chloride in dioxan and stir for 16 h at RT. After concentrating the reaction solution by evaporation under vacuum, purify the residue by preparative RP-HPLC (gradient: water/acetonitrile). 48 mg (52% of theor.) of the desired product is obtained.

reactant | 4-{[(2S)-2-{[6-(2-fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]oxy}propyl](methyl)amino}butyric acid tert.-butyl ester | 0.19 mmol, 102 mg | C(C)(C)(C)OC(CCCN(C)C[C@H](C)OC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=C(C=CC=C2)F)=O | C31H36FN3O5
solvent | hydrogen chloride | 4 N, 2 ml | Cl | ClH
solvent | dioxan | O1CCOCC1 | C4H8O2
product | (+)-4-{[(2S)-2-{[6-(2-Fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]oxy}propyl]-(methyl)amino}butyric acid | FC1=C(C=CC=C1)C1=C(C2=C(N=CN=C2O[C@H](CN(CCCC(=O)O)C)C)O1)C1=CC=C(C=C1)OC | C27H28FN3O5
